US07692033B2
Preparation of 2-benzoyloxymethyl-1,3-oxathiolane
Aliquots of 2-benzoyloxyacetaldehyde dimethyl acetal (50.0 g) prepared according to Example 1, 2-mercaptoethanol (20.4 g), p-toluenesulfonic acid monohydrate (0.90 g) and toluene (250 mL) were placed in a three-neck flask, followed by heating. By-produced methanol was distilled off with the solvent. After distilling off about 150 mL, the reaction mixture was cooled to room temperature, was washed with a saturated aqueous sodium hydrogen carbonate solution and water and was dried over anhydrous sodium carbonate. After filtration and vacuum distillation at 144-147° C. and at 0.60 mmHg, the target compound (54.9 g) was obtained in a yield of 100%.

reactant | 2-benzoyloxyacetaldehyde dimethyl acetal | 50.0 g | COC(COC(C1=CC=CC=C1)=O)OC | C11H14O4
reactant | 2-mercaptoethanol | 20.4 g | SCCO | C2H6OS
catalyst | p-toluenesulfonic acid monohydrate | 0.90 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-benzoyloxymethyl-1,3-oxathiolane | 54.9 g, yield of 100% | C(C1=CC=CC=C1)(=O)OCC1OCCS1 | C11H12O3S
